US09359381B2
Step 6: 7-(((tert-Butyldimethylsilyl)oxy)methyl)-9-(4-chlorothiazol-2-yl)-5-(3-fluorophenyl)-1,3-dimethyl-8,9-dihydro-1H-pyrimido[4,5-a]pyrrolizine-2,4(3H,7H)-dione
Sodium hydride (127 mg, 3.18 mmol) was added to a solution of 1-((tert-butyldimethylsilyl)oxy)-4-(4-chlorothiazol-2-yl)-4-(5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-7-yl)butan-2-yl methanesulfonate (712 mg, 1.061 mmol) in THF (30 mL). The mixture was stirred at room temperature for 35 mins. The reaction was quenched with water and extracted with DCM (3×). The combined organic extracts were passed through a hydrophobic frit and evaporated under vacuum. Purification by chromatography on silica, eluting with 0-100% EtOAc/hexane afforded the title compound as a mixture of diastereomers.

reactant | Sodium hydride | 3.18 mmol, 127 mg | [H-].[Na+]
reactant | 1-((tert-butyldimethylsilyl)oxy)-4-(4-chlorothiazol-2-yl)-4-(5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-7-yl)butan-2-yl methanesulfonate | 1.061 mmol, 712 mg | CS(=O)(=O)OC(CO[Si](C)(C)C(C)(C)C)CC(C=1NC(=C2C1N(C(N(C2=O)C)=O)C)C2=CC(=CC=C2)F)C=2SC=C(N2)Cl | C28H36ClFN4O6S2Si
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 7-(((tert-Butyldimethylsilyl)oxy)methyl)-9-(4-chlorothiazol-2-yl)-5-(3-fluorophenyl)-1,3-dimethyl-8,9-dihydro-1H-pyrimido[4,5-a]pyrrolizine-2,4(3H,7H)-dione | [Si](C)(C)(C(C)(C)C)OCC1N2C(=C3C(=C2C(C1)C=1SC=C(N1)Cl)N(C(N(C3=O)C)=O)C)C3=CC(=CC=C3)F | C27H32ClFN4O3SSi
